US09216980B2
Step 2: 5-(2-Methoxyethoxy)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A degassed mixture of 3-bromo-5-(2-methoxy-ethoxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (50 mg, 0.10 mmol), 4-piperidin-1-ylmethylphenyl boronic acid (31 mg, 0.14 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (9 mg, 0.012 mmol) in 2N aqueous sodium carbonate solution (0.42 mL) and acetonitrile (0.53 mL) were heated under microwave irradiation at 140° C. for 30 minutes. The reaction mixture was diluted with water (2 mL) and extracted with 10% MeOH in DCM. The combined organic phase was concentrated in vacuo and the resultant residue was purified by flash chromatography (silica, 500 mg column, Si-SPE, 0-20% methanol in DCM). The resultant residue was dissolved in a solution of 0.15M potassium hydroxide in methanol (7 mL) and stirred for 45 minutes. 1N Potassium dihydrogen phosphate (1 mL) was added then the mixture concentrated in vacuo. The resultant residue was diluted with water and the pH adjusted to 7 by the addition of 1N potassium dihydrogen phosphate. The aqueous phase was extracted with DCM (3×10 mL) and 20% ethanol in DCM (10 mL), the combined organic phase was dried over magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography (silica, 500 mg column, Si-SPE, 2-4% methanol in DCM) and trituration with acetonitrile to afford the title compound as a brown solid (14 mg, 32%). 1H NMR (CDCl3, 300 MHz): 9.91 (s, 1H), 9.09 (d, J=2.2 Hz, 1H), 8.93 (d, J=2.2 Hz, 1H), 8.80 (s, 1H), 7.67 (d, J=8.1 Hz, 2H), 7.49 (d, J=8.0 Hz, 2H), 4.75-4.69 (m, 2H), 3.95-3.89 (m, 2H), 3.58 (s, 2H), 3.47 (s, 3H), 2.51-2.37 (m, 4H), 1.68-1.54 (m, 4H), 1.52-1.41 (m, 2H). LCMS (Method A): RT=6.27 min, M+H+=442.

reactant | 3-bromo-5-(2-methoxy-ethoxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.10 mmol, 50 mg | BrC1=CC2=C(NC3=C2C(=C(N=C3)C#N)OCCOC)N=C1 | C14H11BrN4O2
reactant | 4-piperidin-1-ylmethylphenyl boronic acid | 0.14 mmol, 31 mg | N1(CCCCC1)CC1=CC=C(C=C1)B(O)O | C12H18BNO2
solvent | sodium carbonate | 2N, 0.42 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 0.53 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.012 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-Methoxyethoxy)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 14 mg, 32% | COCCOC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C1=CC=C(C=C1)CN1CCCCC1)C#N | C26H27N5O2
